US04477671
5-Benzyloxy-2-(1-hydroxy-2-tert-butylaminoethyl)pyridine
To a solution of 20.7 g. (0.091 mole) of 5-benzyloxy-2-(1,2-epoxyethyl)pyridine in 250 ml. of methanol, 25 ml. of tert-butylamine was added and the resulting solution was heated at the reflux temperature for 2.5 hours. The solvent and the excess tert-butylamine were evaporated in vacuo to give after recrystallization from hexanes, 17.3 g. (61%) of 5-benzyloxy-2-(1-hydroxy-2-tert-butylaminoethyl)pyridine; m.p. 69°-73° C.

reactant | 5-benzyloxy-2-(1,2-epoxyethyl)pyridine | 0.091 mole | C(C1=CC=CC=C1)OC=1C=CC(=NC1)C1CO1 | C14H13NO2
reactant | tert-butylamine | C(C)(C)(C)N | C4H11N
solvent | methanol | CO | CH4O
product | 5-Benzyloxy-2-(1-hydroxy-2-tert-butylaminoethyl)pyridine | C(C1=CC=CC=C1)OC=1C=CC(=NC1)C(CNC(C)(C)C)O | C18H24N2O2
